### PR TITLE
Teach omega that `b^(e+1) = b*b^e` when `b` is a constant.

### PR DESCRIPTION
**Pull request by bollu**
This is very helpful when dealing with bitvectors, where a case analysis on the bitwidth leaves one with hypotheses of the form `x<2^(Nat.succ w)`.

### CODE REVIEW

File: Std/Tactic/Omega/Int.lean [hunk 1]
```diff
@@ -28,6 +28,8 @@ theorem pos_pow_of_pos (a : Int) (b : Nat) (h : 0 < a) : 0 < a ^ b := by
   rw [Int.eq_natAbs_of_zero_le (Int.le_of_lt h), ← Int.ofNat_zero, ← Int.ofNat_pow, Int.ofNat_lt]
   exact Nat.pos_pow_of_pos _ (Int.natAbs_pos.mpr (Int.ne_of_gt h))
 
+theorem pow_succ (b : Int) (e : Nat) : b ^ e.succ = (b ^ e) * b := rfl
+
```
Comment (alexkeizer) [inline Std/Tactic/Omega/Int.lean:32]: I'm not sure if it matters if this is an omega-specific lemma, but generally I think `e + 1` is preferred over `e.succ`

File: test/omega/test.lean [hunk 2]
```diff
@@ -382,4 +382,13 @@ example (i j : Nat) (p : i ≥ j) : True := by
...
 example (i : Fin 7) : (i : Nat) < 8 := by omega
 
+-- Check that we correctly process base^(e+1) for constant base.
+example (x e : Nat) (hx : x < 2^(e+1)) : x < 2^e *2 := by omega
+
+-- Check that we correctly handle `e.succ`
+example (x e : Nat) (hx : x < 2^(e.succ)) : x < 2^e *2 := by omega
+
+-- Check that this works for integer base.
+example (x : Int) (e : Nat) (hx : x < 2^(e+1)) : x < 2^e *2 := by omega
```
Comment (alexkeizer) [inline test/omega/test.lean]:
```suggestion
example (x : Int) (e : Nat) (hx : x < (2 : Int)^(e+1)) : x < 2^e *2 := by omega
```
Probably this is equivalent, but by putting the cast explicitly, we know for sure it's not doing the cast to `Int` after doing the exponentiation with a `Nat` base

File: Std/Tactic/Omega/Frontend.lean [hunk 3]
```diff
@@ -80,6 +80,18 @@ def mkAtomLinearCombo (e : Expr) : OmegaM (LinearCombo × OmegaM Expr × HashSet
...
+/-- Match on the two ways of spelling successor that are defeq : `n+1`, `n.succ`.
+TODO: support b^(1+n), add a theorem to rewrite b^(1+n) = b^n*b. -/
+def succ? (e : Expr) : Option Expr :=
+  match e.getAppFnArgs with
+  | (``Nat.succ, #[n]) => some n
+  | (``HAdd.hAdd, #[_, _, _, _, a, b]) => do
+     if b == toExpr (1 : Nat)
+     then some a
+     else none
+  | _ => none
```
Comment (alexkeizer) [inline Std/Tactic/Omega/Frontend.lean:93]: I would have expected a normalization step that rewrites `succ e` into `e + 1`, so that in the match we only have to check for the latter. That way, other rewrites get to automatically make use of it, too

File: Std/Tactic/Omega/Frontend.lean [hunk 4]
```diff
@@ -80,6 +80,18 @@ def mkAtomLinearCombo (e : Expr) : OmegaM (LinearCombo × OmegaM Expr × HashSet
...
   | `(mkAppN $f #[$xs,*]) => (xs.getElems.foldlM (fun x e => `(Expr.app $x $e)) f : MacroM Term)
 
+
+/-- Match on the two ways of spelling successor that are defeq : `n+1`, `n.succ`.
+TODO: support b^(1+n), add a theorem to rewrite b^(1+n) = b^n*b. -/
+def succ? (e : Expr) : Option Expr :=
+  match e.getAppFnArgs with
+  | (``Nat.succ, #[n]) => some n
+  | (``HAdd.hAdd, #[_, _, _, _, a, b]) => do
+     if b == toExpr (1 : Nat)
```
Comment (alexkeizer) [inline Std/Tactic/Omega/Frontend.lean:90]: What does `==` on expressions check? I would assume it's only syntactic equality, which seems potentially over-specific: what if for some reason the `OfNat (Int)` instance is syntactically different in a user's file?
We could either do the match, where we allow the instance to be whatever, or we should check for defEq. (Can we use `MetaM` inside of `OmegaM`?)

File: Std/Tactic/Omega/Frontend.lean (hunk 3 above)
Comment (bollu) [reply Std/Tactic/Omega/Frontend.lean:93]: Unfortunately, the Omega loop does not seem to have such a step.

File: Std/Tactic/Omega/Frontend.lean (hunk 4 above)
Comment (bollu) [reply Std/Tactic/Omega/Frontend.lean:90]: Yes, it's syntactic. I would be terribly surprised if the `ofNat` instance is different, and I picked up this technique from the Omega file that builds atoms.

Comment (alexkeizer) [reply Std/Tactic/Omega/Frontend.lean:90]: Sure, it seems I might be a bit too paranoid :sweat_smile:

File: Std/Tactic/Omega/Int.lean (hunk 1 above)
Comment (bollu) [reply Std/Tactic/Omega/Int.lean:32]: Will be fixed in the patch sent to `leanprover/lean4`.
